US07045619B2
3-Acetyl-1-(2-hydroxyethyl)-5-methylpyrazole (505 mg, prepared as described in Example 12, Preparation 1 in dry dichloromethane (5 ml) under an atmosphere of arson was treated with a solution of phosgene in toluene (12.5% w/w, 5.22 ml) and the mixture stirred for 1.5 h. The solvents were then removed, dichloromethane was added and removed using a rotary evaporator to give 3-acetyl-1-[2-(chlorocarbonyloxy)ethyl]-5methylpyrazole; νmax (CH2Cl2) 1777 and 1684 cm−1.

reactant | 3-Acetyl-1-(2-hydroxyethyl)-5-methylpyrazole | C(C)(=O)C1=NN(C(=C1)C)CCO | C8H12N2O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | toluene | 5.22 ml | C1(=CC=CC=C1)C | C7H8
product | 3-acetyl-1-[2-(chlorocarbonyloxy)ethyl]-5methylpyrazole | C(C)(=O)C1=NN(C(=C1)C)CCOC(=O)Cl | C9H11ClN2O3
